US04284768
6-Chloro-1,2-dihydro-1-methyl-4-(4-morpholinyl)-2-oxo-3-quinolinecarboxylic acid ethyl ester
A solution of 200 mg. of 4,6-dichloro-1,2-dihydro-1-methyl-2-oxo-3-quinolinecarboxylic acid ethyl ester, (prepared in Example 4) in 1 ml. of morpholine was heated in a test tube for a few minutes and then was poured into 40 ml. of water. The resulting precipitate was collected and washed with water. Recrystallization from ethanol gave the title compound with m.p. 167°-169° C.

reactant | 4,6-dichloro-1,2-dihydro-1-methyl-2-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC=C(C=C2C1Cl)Cl)C)=O | C13H11Cl2NO3
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | 6-Chloro-1,2-dihydro-1-methyl-4-(4-morpholinyl)-2-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC=C(C=C2C1N1CCOCC1)Cl)C)=O | C17H19ClN2O4
